US09238639B2
A) 6-((2,4-Dichlorobenzyl)oxy)-N-methoxy-1-benzofuran-3(2H)-imine
To a mixture of 6-(2,4-dichlorobenzyloxy)benzofuran-3(2H)-one (2.0 g) in MeOH (20 mL) were added sodium acetate (0.531 g) and O-methylhydroxylamine hydrochloride (0.540 g). The mixture was refluxed overnight. After cooling, the mixture was concentrated. The residue was washed with water and EtOAc to give the title compound (1.24 g).

reactant | 6-(2,4-dichlorobenzyloxy)benzofuran-3(2H)-one | 2.0 g | ClC1=C(COC2=CC3=C(C(CO3)=O)C=C2)C=CC(=C1)Cl | C15H10Cl2O3
reactant | sodium acetate | 0.531 g | C(C)(=O)[O-].[Na+]
reactant | O-methylhydroxylamine hydrochloride | 0.540 g | Cl.CON
solvent | MeOH | 20 mL | CO | CH4O
product | 6-((2,4-Dichlorobenzyl)oxy)-N-methoxy-1-benzofuran-3(2H)-imine | 1.24 g | ClC1=C(COC2=CC3=C(C(CO3)=NOC)C=C2)C=CC(=C1)Cl | C16H13Cl2NO3
